US05280026
(a) 2-(2-Methylphenylamino)-4-hydroxythieno[3,2-d]-pyrimidine
2-Ethylmercapto-4-hydroxythieno[3,2-d]pyrimidine 10 g, 0.047I mol) and o-toluidine (30 g, 0.0279 mol) were heated in an oil bath at 210° for 20 hours. The reaction mixture was poured into diethyl ether and the solid obtained was collected by filtration and dried. The mother liquor was extracted with 2N sodium hydroxide (3×100 ml). The aqueous extracts were combined, acidified with glacial acetic acid and extracted with chloroform (3×100 ml). The chloroform extracts were combined, dried over magnesium sulphate, filtered and evaporated under reduced pressure to give a solid. Recrystallization from methanol gave a pure sample, (5.32 g), m.p. 243°-245°.

reactant | 2-Ethylmercapto-4-hydroxythieno[3,2-d]pyrimidine | 10 g | C(C)SC=1N=C(C2=C(N1)C=CS2)O | C8H8N2OS2
reactant | o-toluidine | 0.0279 mol, 30 g | NC=1C(=CC=CC1)C | C7H9N
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-(2-Methylphenylamino)-4-hydroxythieno[3,2-d]-pyrimidine | CC1=C(C=CC=C1)NC=1N=C(C2=C(N1)C=CS2)O | C13H11N3OS
